US09359286B2
To a mixture of 2-(4-((5R,7S)-2-oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetic acid (I-5B, 800 mg, 2.91 mmol) in DCM (20 mL) was added oxalyl chloride (1 ml, 11.42 mmol) and a few drops of DMF. After one hour, the reaction mixture was concentrated in vacuo. The residue was re-dissolved in DCM (20 mL) in a glass pressure vessel. Granular aluminum chloride (1550 mg, 11.62 mmol) was added and the reaction mixture was cooled to −78° C. Ethylene was bubbled through the solution for 5 minutes and then the reaction vessel was sealed. The reaction mixture was allowed to slowly warm to room temperature and stirred for 4 hours. The mixture was poured onto ice, diluted with dichloromethane and washed with 1M HCl. The organic layer was dried with MgSO4, filtered and concentrated. The crude material was purified on a silica gel cartridge (80 g) using a MeOH/DCM gradient (0-10% MeOH over 13 CV). The product containing fractions were collected and dried in vacuo to afford 770 mg of (5R,7S)-7-(6-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)-3-oxa-1-azaspiro[4.4]nonan-2-one. HPLC retention time=0.74 min (Condition G); LC/MS M+1=286: 1H NMR (400 MHz, chloroform-d) δ 7.20-7.00 (m, 3H), 5.49 (br. s., 1H), 4.45-4.25 (m, 2H), 3.59 (s, 2H), 3.08 (t, J=6.8 Hz, 3H), 2.58 (t, J=6.7 Hz, 2H), 2.38 (dd, J=13.2, 7.3 Hz, 1H), 2.27-2.11 (m, 2H), 2.05-1.92 (m, 2H), 1.92-1.74 (m, 1H).

reactant | 2-(4-((5R,7S)-2-oxo-3-oxa-1-azaspiro[4.4]nonan-7-yl)phenyl)acetic acid | 2.91 mmol, 800 mg | O=C1N[C@@]2(CO1)C[C@H](CC2)C2=CC=C(C=C2)CC(=O)O | C15H17NO4
reactant | oxalyl chloride | 11.42 mmol, 1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 11.62 mmol, 1550 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | (5R,7S)-7-(6-oxo-5,6,7,8-tetrahydronaphthalen-2-yl)-3-oxa-1-azaspiro[4.4]nonan-2-one | 770 mg | O=C1CC=2C=CC(=CC2CC1)[C@@H]1C[C@@]2(COC(N2)=O)CC1 | C17H19NO3
